US08859561B2
To a solution of 7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine (70 mg, 0.328 mmol) in DMF (1 mL) was added a suspension of NaH (40.0 mg, 0.986 mmol) in DMF (1 mL). After stiffing for 5 min at RT, a solution of 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (287 mg, 0.986 mmol) in DMF (1 mL) was added dropwise into the reaction mixture and stirring continued for another 2 h at RT. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel flash chromatography (MeOH-DCM) to yield 11-(2-(6-methylpyridin-3-yl)ethyl)-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine;

reactant | 7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | 0.328 mmol, 70 mg | N1=CC=CC2=C1NC1=C2CN2CCCC2C1 | C13H15N3
reactant | NaH | 0.986 mmol, 40.0 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 0.986 mmol, 287 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 11-(2-(6-methylpyridin-3-yl)ethyl)-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | CC1=CC=C(C=N1)CCN1C2=C(C=3CN4CCCC4CC31)C=CC=N2 | C21H24N4
